US07589205B2
F1. 2-(3-Ethoxy-4-methoxyphenyl)-1,4-pentadien-3-ol
According to the General Procedure C, 1-bromo-1-(3-ethoxy-4-methoxyphenyl)ethene (1.40 g, 5.44 mmol), t-BuLi (8.00 ml, 13.60 mmol) and acrolein (914 mg, 16.32 mmol) are converted to give after workup and chromatography [SiO2, PE/EE gradient from 5:1 to 2:1, Rf (PE/EE=2:1)=0.31] the title compound (1.10 g, 4.69 mmol) as a colorless oil;

reactant | 1-bromo-1-(3-ethoxy-4-methoxyphenyl)ethene | 5.44 mmol, 1.40 g | BrC(=C)C1=CC(=C(C=C1)OC)OCC | C11H13BrO2
reactant | t-BuLi | 13.60 mmol, 8.00 ml | [Li]C(C)(C)C
reactant | acrolein | 16.32 mmol, 914 mg | C(=O)C=C | C3H4O
product | 2-(3-Ethoxy-4-methoxyphenyl)-1,4-pentadien-3-ol | 4.69 mmol, 1.10 g | C(C)OC=1C=C(C=CC1OC)C(=C)C(C=C)O | C14H18O3
